US04281008
(a) Ethyl 3-[7-hydroxy-4-oxo-8-n-propyl-4H-1-benzopyran-2-yl]propionate
By a process analogous to that of Example 3(a) was prepared ethyl 3-[7-benzyloxy-4-oxo-8-propyl-4H-1-benzopyran-2-yl]propionate. This compound (1.0 g) in dry dichloromethane (30 ml) at -78° C. was treated with boron trichloride (2 ml). After 20 minutes, the mixture was poured onto ice and extracted with 10% aqueous sodium carbonate. Acidification gave a solid which crystallised from ethyl acetate to give the desired product (0.35 g), mp 127°-128° C.

reactant | ethyl 3-[7-benzyloxy-4-oxo-8-propyl-4H-1-benzopyran-2-yl]propionate | C(C1=CC=CC=C1)OC1=C(C2=C(C(C=C(O2)CCC(=O)OCC)=O)C=C1)CCC | C24H26O5
reactant | boron trichloride | 2 ml | B(Cl)(Cl)Cl | BCl3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Ethyl 3-[7-hydroxy-4-oxo-8-n-propyl-4H-1-benzopyran-2-yl]propionate | 0.35 g | OC1=C(C2=C(C(C=C(O2)CCC(=O)OCC)=O)C=C1)CCC | C17H20O5
